US04696938
6-(2-bromophenyl)-2-methylpyridine (3.5 g) was dissolved in 150 ml 1,4-dioxane. Selenium dioxide (Aldrich, Gold Label, 2.0 g) was added and the mixture was refluxed for a total of 50 hours. The solids were removed by filtration and the mixture was diluted with ether. The solution was washed several times with water, dried over magnesium sulfate, filtered and evaporated to afford 2.0 g of crude 6-(2-bromophenyl)-2-pyridinecarboxaldehyde as a yellow semi-solid.

reactant | 6-(2-bromophenyl)-2-methylpyridine | 3.5 g | BrC1=C(C=CC=C1)C1=CC=CC(=N1)C | C12H10BrN
reactant | Selenium dioxide | 2.0 g | [Se](=O)=O | O2Se
solvent | 1,4-dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 6-(2-bromophenyl)-2-pyridinecarboxaldehyde | 2.0 g | BrC1=C(C=CC=C1)C1=CC=CC(=N1)C=O | C12H8BrNO
